US09145433B2
2-Chloro-3-(4-fluorophenyl)pyridine was synthesized analogous to the reaction conditions used in the preparation of 5-(2-chloropyridin-3-yl)-1H-indazole by heating the mixture of 4-fluorophenyl boronic acid (3.0 g, 21.4 mmol), 3-bromo-2-chloropyridine (4.9 g, 25.7 mmol), Pd(PPh3)4 (1.6 g, 1.3 mmol) and 2M aq. Na2CO3 (25 mL, 50 mmol) in 1,4-dioxane (125 mL) under argon atmosphere for 12 h. LC/MS indicated three products with MH+ 208, 254 and 268. Upon work-up of the reaction mixture, as discussed in the preparation of 5-(2-chloropyridin-3-yl)-1H-indazole, the crude concentrated was purified by flash silica gel column chromatography [Combiflash® companion System® with RediSep® silica gel column 120 g, 10-50% EtOAC/hexanes eluting solvent gradient upon liquid loading on to column]. Two fractions containing the desired product were identified and concentrated. 2-Chloro-3-(4-fluorophenyl)pyridine was isolated as a crystalline solid (888 mg, 16%) from the fraction containing 2,3-bis(4-fluorophenyl)pyridine by suspending the semi solid fraction mixture in 10% EtOAc/hexanes and filtered. 1H NMR (DMSO-d6): δ 8.41 (dd, 1H, J=1.8 and 4.7 Hz), 7.86 (dd, 1H, J=2.0 and 7.6 Hz), 7.54-7.48 (m, 3H), 7.34-7.31 (m, 2H). 19F NMR (DMSO-d6): δ −114.06 (s). LCMS: rt 7.50 min (A), purity 99%, MS (m/e) 208 (MH+).

reactant | 5-(2-chloropyridin-3-yl)-1H-indazole | ClC1=NC=CC=C1C=1C=C2C=NNC2=CC1 | C12H8ClN3
reactant | 4-fluorophenyl boronic acid | 21.4 mmol, 3.0 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | 3-bromo-2-chloropyridine | 25.7 mmol, 4.9 g | BrC=1C(=NC=CC1)Cl | C5H3BrClN
reactant | Na2CO3 | 50 mmol, 2M, 25 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 125 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 1.3 mmol, 1.6 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Chloro-3-(4-fluorophenyl)pyridine | ClC1=NC=CC=C1C1=CC=C(C=C1)F | C11H7ClFN
